US04927453
3-Bromomethyl-2-carboethoxybenzenesulfonamide
A solution of 5.7 g of 3-bromomethyl-2-carboethoxy-N-(1,1-dimethylethyl)benzenesulfonamide in 60 mL of trifluoroacetic acid was stirred at room temperature for 16 hours. Concentration provided a viscous oil which was triturated with n-butyl chloride. The solids were collected to yield 3.91 g of a white solid, m.p. 138°-140° C.

reactant | 3-bromomethyl-2-carboethoxy-N-(1,1-dimethylethyl)benzenesulfonamide | 5.7 g | BrCC=1C(=C(C=CC1)S(=O)(=O)NC(C)(C)C)C(=O)OCC | C14H20BrNO4S
solvent | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Bromomethyl-2-carboethoxybenzenesulfonamide | 3.91 g | BrCC=1C(=C(C=CC1)S(=O)(=O)N)C(=O)OCC | C10H12BrNO4S
